US06117841
2-[(4-Dimethylamino-benzyl)-methyl-amino]-4-methyl-pentanoic acid [2-(4-benzyloxy phenyl)-1-(1-propyl-piperidin-3-ylcarbamoyl)-ethyl]-amide
To a solution of (S)-2-[(4-dimethylamino-benzyl)-methyl-amino]-4-methyl-pentanoic acid (0.28 g, 1.01 mmol) in 15 mL of DMF was added HBTU (0.38 g, 1.01 mmol) and diisopropylethylamine (0.65 g, 5.05 mmol). The mixture was stirred for 30 minutes at 0° C. A solution of 2-amino-3-(4-benzyloxyphenyl)-N-(1-propyl-piperidin-3-yl)propionamide (0.40 g, 1.01 mmol) in 15 mL of DMF was added to the reaction mixture. The reaction mixture was allowed to reach the room temperature and was stirred for another 30 minutes. The mixture was diluted with 40 mL of ethyl acetate, washed with 1N HCl (2×10 mL), saturated NaHCO3 (2×10 mL) and saturated solution of brine (2×10 mL). The organic layer was separated, dried with Na2SO4 and evaporated to dryness. The crude residue was purified by chromatography (silica gel, 6:4 hexane/ethyl acetate). The purified product was crystallized from methylene chloride and petroleum ether to give the title compound (0.34 g, 49%) as a white powder; mp 131-133° C.

reactant | (S)-2-[(4-dimethylamino-benzyl)-methyl-amino]-4-methyl-pentanoic acid | 1.01 mmol, 0.28 g | CN(C1=CC=C(CN([C@H](C(=O)O)CC(C)C)C)C=C1)C | C16H26N2O2
reactant | HBTU | 1.01 mmol, 0.38 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 5.05 mmol, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-amino-3-(4-benzyloxyphenyl)-N-(1-propyl-piperidin-3-yl)propionamide | 1.01 mmol, 0.40 g | NC(C(=O)NC1CN(CCC1)CCC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H33N3O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(4-Dimethylamino-benzyl)-methyl-amino]-4-methyl-pentanoic acid [2-(4-benzyloxy phenyl)-1-(1-propyl-piperidin-3-ylcarbamoyl)-ethyl]-amide | 0.34 g, 49% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC1CN(CCC1)CCC)=O)NC(C(CC(C)C)N(C)CC1=CC=C(C=C1)N(C)C)=O | C40H57N5O3
